US09126950B2
In a pressure tube 2-(benzyloxy)-5-nitroaniline (0.65 g), 2,4-dichloro-5-fluoropyrimidine (0.66 g) and DIPEA (0.69 g) were taken in n-butanol (10 mL). The reaction mixture was heated at 120° C. for 24 hr. The reaction was monitored on TLC using DCM: hexane:ethyl acetate (3:5:2) as mobile phase. The reaction was complete after 24 h. After completion, reaction mixture was allowed to cool at room temperature. The reaction was poured into water and extracted with ethyl acetate (3×25 mL). The ethyl acetate layer washed with brine solution, dried over sodium sulfate and concentrated under reduced pressure at 40° C. Crude material was purified by triturating with diethyl ether to give 0.25 g of N-(2-(benzyloxy)-5-nitrophenyl)-2-chloro-5-fluoropyrimidin-4-amine. M+1=374.8.

reactant | 2-(benzyloxy)-5-nitroaniline | 0.65 g | C(C1=CC=CC=C1)OC1=C(N)C=C(C=C1)[N+](=O)[O-] | C13H12N2O3
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.66 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | DIPEA | 0.69 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM hexane ethyl acetate | C(Cl)Cl.CCCCCC.C(C)(=O)OCC
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
product | N-(2-(benzyloxy)-5-nitrophenyl)-2-chloro-5-fluoropyrimidin-4-amine | 0.25 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC(=NC=C1F)Cl | C17H12ClFN4O3
